US04472305
Condensation of BocPro-Phe-Phe-GlyOH (2.8 g.) and MeLeu-MetNH2 (1.6 g.) using dicyclohexylcarbodiimide and N-hydroxysuccinimide gave BocPro-Phe-Phe-Gly-MeLeu-MetNH2 in 49% yield. De-t-butoxycarbonylation of BocPro-Phe-Phe-GlyMeLeu-MetNH2 using hydrogen chloride in acetic acid gave HPro-Phe-Phe-Gly-MeLeu-MetNH2, which was isolated as the amorphous white solid free base in 36% yield.

reactant | BocPro-Phe-Phe-GlyMeLeu-MetNH2 | N1([C@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)NCC(=O)N([C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)C)CCC1)C(=O)OC(C)(C)C | C42H61N7O8S
reactant | hydrogen chloride | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | HPro-Phe-Phe-Gly-MeLeu-MetNH2 | 36% yield | N1[C@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)NCC(=O)N([C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)C)CCCC1 | C38H55N7O6S
